* File: NOR2D2.pex.netlist.pex
* Created: Sat Dec 13 12:32:47 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NOR2D2_VSS 1 4 27 28 31 38 39 40
r6 42 47 0.316286
r7 35 47 1
r8 33 47 1
r9 33 35 0.15269
r10 30 47 1
r11 30 33 0.15269
r12 30 31 0.251086
r13 28 31 0.624484
r14 27 28 0.62445
r15 27 38 0.62445
r16 18 39 9.98407
r17 13 14 6.84003
r18 11 42 1
r19 9 42 1
r20 9 11 2.6107
r21 7 42 1
r22 7 9 2.6107
r23 7 18 3.26338
r24 4 40 12.3057
r25 4 14 6.84003
r26 1 13 6.84003
r27 1 11 5.5869
.ends

.subckt PM_NOR2D2_net11 4 5 10 11 16 17 22 23 35 48 55 56 57 58 59 60
r68 71 73 0.2952
r69 69 71 0.2952
r70 67 69 0.738
r71 65 67 0.2952
r72 62 65 0.2952
r73 53 73 1
r74 48 55 1.05025
r75 47 48 1.05022
r76 44 47 1.05022
r77 43 53 0.156299
r78 42 44 0.252919
r79 42 43 2.03688
r80 41 71 1
r81 38 69 1
r82 38 41 0.2952
r83 36 53 0.104199
r84 36 41 0.2214
r85 35 67 1
r86 33 65 1
r87 33 35 2.78344
r88 31 62 1
r89 31 33 2.78344
r90 29 31 5.56688
r91 28 29 11.1338
r92 28 56 2.08758
r93 25 56 9.04618
r94 23 60 20.306
r95 22 23 20.3052
r96 19 35 8.06959
r97 19 22 20.3052
r98 17 59 20.306
r99 16 17 20.3052
r100 13 29 8.06959
r101 13 16 20.3052
r102 11 58 20.306
r103 10 11 20.3052
r104 7 28 8.06959
r105 7 10 20.3052
r106 5 57 20.306
r107 4 5 20.3052
r108 1 25 8.06959
r109 1 4 20.3052
.ends

.subckt PM_NOR2D2_net10 1 6 10 11 15 20 24 25 29 34 38 39 43 48 52 53 57 62 66
+ 67 74 75 76 77 78 79 80 81 82 83
r102 67 83 20.306
r103 66 67 20.3052
r104 63 73 6.97267
r105 63 66 20.3052
r106 61 62 20.3052
r107 61 82 20.3052
r108 57 73 6.97267
r109 57 62 20.306
r110 56 72 4.89506
r111 55 73 0.353334
r112 55 56 16.3169
r113 53 81 20.306
r114 52 53 20.3052
r115 49 72 8.70233
r116 49 52 20.3052
r117 47 48 20.3052
r118 47 80 20.3052
r119 43 72 8.70233
r120 43 48 20.306
r121 42 71 4.89506
r122 41 72 4.89506
r123 41 42 16.3169
r124 39 79 20.306
r125 38 39 20.3052
r126 35 71 8.70233
r127 35 38 20.3052
r128 33 34 20.3052
r129 33 78 20.3052
r130 29 71 8.70233
r131 29 34 20.306
r132 28 70 4.89506
r133 27 71 4.89506
r134 27 28 16.3169
r135 25 77 20.306
r136 24 25 20.3052
r137 21 70 8.70233
r138 21 24 20.3052
r139 19 20 20.3052
r140 19 76 20.3052
r141 15 70 8.70233
r142 15 20 20.306
r143 14 69 0.353334
r144 13 70 4.89506
r145 13 14 16.3169
r146 11 75 20.306
r147 10 11 20.3052
r148 7 69 6.97267
r149 7 10 20.3052
r150 5 6 20.3052
r151 5 74 20.3052
r152 1 69 6.97267
r153 1 6 20.306
.ends

.subckt PM_NOR2D2_OUT 1 5 6 11 12 17 18 23 24 31 33 34 35 36 37
r62 31 32 7.8574
r63 27 34 5.89305
r64 26 27 7.8574
r65 24 37 20.306
r66 23 24 20.3052
r67 20 32 10.4917
r68 20 23 20.3052
r69 18 36 20.306
r70 17 18 20.3052
r71 14 31 10.4917
r72 14 17 20.3052
r73 12 35 20.306
r74 11 12 20.3052
r75 8 27 10.4917
r76 8 11 20.3052
r77 6 33 20.306
r78 5 6 20.3052
r79 2 26 10.4917
r80 2 5 20.3052
r81 1 31 1.33576
r82 1 34 0.628592
.ends

.subckt PM_NOR2D2_VDD 1 6 11 14 19 22 27 30 35 39 44 47 52 55 60 63 68 79 80 81
+ 82 83 84 85 86
r113 67 68 20.3052
r114 67 86 20.3052
r115 63 78 1.43649
r116 63 68 20.306
r117 62 77 5.52744
r118 61 78 5.52744
r119 61 62 21.7558
r120 59 60 20.3052
r121 59 85 20.3052
r122 55 77 1.43649
r123 55 60 20.306
r124 54 76 5.52744
r125 53 77 5.52744
r126 53 54 21.7558
r127 51 52 20.3052
r128 51 84 20.3052
r129 47 76 1.43649
r130 47 52 20.306
r131 46 75 5.52744
r132 45 76 5.52744
r133 45 46 21.7558
r134 43 44 20.3052
r135 43 83 20.3052
r136 39 75 1.43649
r137 39 44 20.306
r138 37 74 5.52744
r139 36 75 5.52744
r140 34 35 20.3052
r141 34 82 20.3052
r142 30 74 1.43649
r143 30 35 20.306
r144 29 73 5.52744
r145 28 74 5.52744
r146 28 29 21.7558
r147 26 27 20.3052
r148 26 81 20.3052
r149 22 73 1.43649
r150 22 27 20.306
r151 21 72 5.52744
r152 20 73 5.52744
r153 20 21 21.7558
r154 18 19 20.3052
r155 18 80 20.3052
r156 14 72 1.43649
r157 14 19 20.306
r158 13 71 5.52744
r159 12 72 5.52744
r160 12 13 21.7558
r161 10 11 20.3052
r162 10 79 20.3052
r163 6 71 1.43649
r164 6 11 20.306
r165 1 36 30.2406
r166 1 37 21.9734
.ends

.subckt PM_NOR2D2_net12 1 6 10 11 15 20 24 25 29 34 38 39 43 48 52 53 57 62 66
+ 67 74 75 76 77 78 79 80 81 82 83
r99 67 83 20.306
r100 66 67 20.3052
r101 63 73 6.97267
r102 63 66 20.3052
r103 61 62 20.3052
r104 61 82 20.3052
r105 57 73 6.97267
r106 57 62 20.306
r107 56 72 4.89506
r108 55 73 0.353334
r109 55 56 16.3169
r110 53 81 20.306
r111 52 53 20.3052
r112 49 72 8.70233
r113 49 52 20.3052
r114 47 48 20.3052
r115 47 80 20.3052
r116 43 72 8.70233
r117 43 48 20.306
r118 42 71 4.89506
r119 41 72 4.89506
r120 41 42 16.3169
r121 39 79 20.306
r122 38 39 20.3052
r123 35 71 8.70233
r124 35 38 20.3052
r125 33 34 20.3052
r126 33 78 20.3052
r127 29 71 8.70233
r128 29 34 20.306
r129 28 70 4.89506
r130 27 71 4.89506
r131 27 28 16.3169
r132 25 77 20.306
r133 24 25 20.3052
r134 21 70 8.70233
r135 21 24 20.3052
r136 19 20 20.3052
r137 19 76 20.3052
r138 15 70 8.70233
r139 15 20 20.306
r140 14 69 0.353334
r141 13 70 4.89506
r142 13 14 16.3169
r143 11 75 20.306
r144 10 11 20.3052
r145 7 69 6.97267
r146 7 10 20.3052
r147 5 6 20.3052
r148 5 74 20.3052
r149 1 69 6.97267
r150 1 6 20.306
.ends

.subckt PM_NOR2D2_IN2 1 9 12 15 16 18 19 20 23 24 26 32 34 35 36 39 40 42 48 50
+ 51 52 55 56 58 64 66 68 71 72 74 76 77 78 80 83 84 86 87 88 91 92 94 100 102
+ 103 104 107 108 110 116 118 119 120 123 124 126 132 134 135 136 139 140 142
+ 193 194 195 196 197 198 199 200 201 202 203 204 205 206 207 208
r220 141 142 0.62445
r221 141 208 0.62445
r222 140 208 0.624484
r223 139 140 0.62445
r224 136 142 0.624484
r225 135 139 0.62445
r226 133 134 0.62445
r227 133 207 0.62445
r228 132 207 0.624484
r229 131 132 0.62445
r230 128 136 0.8856
r231 128 134 0.624484
r232 127 135 0.8856
r233 127 131 0.62445
r234 125 126 0.62445
r235 125 206 0.62445
r236 124 206 0.624484
r237 123 124 0.62445
r238 120 128 0.8856
r239 120 126 0.624484
r240 119 127 0.8856
r241 119 123 0.62445
r242 117 118 0.62445
r243 117 205 0.62445
r244 116 205 0.624484
r245 115 116 0.62445
r246 112 120 0.8856
r247 112 118 0.624484
r248 111 119 0.8856
r249 111 115 0.62445
r250 109 110 0.62445
r251 109 204 0.62445
r252 108 204 0.624484
r253 107 108 0.62445
r254 104 112 0.8856
r255 104 110 0.624484
r256 103 111 0.8856
r257 103 107 0.62445
r258 101 102 0.62445
r259 101 203 0.62445
r260 100 203 0.624484
r261 99 100 0.62445
r262 96 104 0.8856
r263 96 102 0.624484
r264 95 103 0.8856
r265 95 99 0.62445
r266 93 94 0.62445
r267 93 202 0.62445
r268 92 202 0.624484
r269 91 92 0.62445
r270 88 96 0.8856
r271 88 94 0.624484
r272 87 95 0.8856
r273 87 91 0.62445
r274 85 86 0.62445
r275 85 201 0.62445
r276 84 201 0.624484
r277 83 84 0.62445
r278 80 88 0.8856
r279 80 86 0.624484
r280 79 87 0.8856
r281 79 83 0.62445
r282 77 80 0.28782
r283 77 78 1.85976
r284 75 79 0.28782
r285 75 76 1.85976
r286 73 74 0.62445
r287 73 200 0.62445
r288 72 200 0.624484
r289 71 72 0.62445
r290 68 78 0.28782
r291 68 74 0.624484
r292 67 76 0.28782
r293 67 71 0.62445
r294 65 66 0.62445
r295 65 199 0.62445
r296 64 199 0.624484
r297 63 64 0.62445
r298 60 68 0.8856
r299 60 66 0.624484
r300 59 67 0.8856
r301 59 63 0.62445
r302 57 58 0.62445
r303 57 198 0.62445
r304 56 198 0.624484
r305 55 56 0.62445
r306 52 60 0.8856
r307 52 58 0.624484
r308 51 59 0.8856
r309 51 55 0.62445
r310 49 50 0.62445
r311 49 197 0.62445
r312 48 197 0.624484
r313 47 48 0.62445
r314 44 52 0.8856
r315 44 50 0.624484
r316 43 51 0.8856
r317 43 47 0.62445
r318 41 42 0.62445
r319 41 196 0.62445
r320 40 196 0.624484
r321 39 40 0.62445
r322 36 44 0.8856
r323 36 42 0.624484
r324 35 43 0.8856
r325 35 39 0.62445
r326 33 34 0.62445
r327 33 195 0.62445
r328 32 195 0.624484
r329 31 32 0.62445
r330 28 36 0.8856
r331 28 34 0.624484
r332 27 35 0.8856
r333 27 31 0.62445
r334 25 26 0.62445
r335 25 194 0.62445
r336 24 194 0.624484
r337 23 24 0.62445
r338 20 28 0.8856
r339 20 26 0.624484
r340 19 27 0.8856
r341 19 23 0.62445
r342 17 18 0.62445
r343 17 193 0.62445
r344 16 193 0.624484
r345 15 16 0.62445
r346 12 20 0.8856
r347 12 18 0.624484
r348 11 19 0.8856
r349 11 15 0.62445
r350 9 12 0.28782
r351 9 10 0.92988
r352 6 11 0.28782
r353 4 5 1.62359
r354 3 10 0.247405
r355 3 5 1.62361
r356 2 7 0.247405
r357 2 4 1.62359
r358 1 6 0.43173
r359 1 7 0.49815
.ends

.subckt PM_NOR2D2_IN1 1 6 12 15 16 18 19 20 23 24 26 32 34 36 39 40 42 48 50 52
+ 55 56 58 64 66 68 71 72 74 75 76 78 80 83 84 86 87 88 91 92 94 100 102 104 107
+ 108 110 116 118 120 123 124 126 132 134 135 136 139 140 142 193 194 195 196
+ 197 198 199 200 201 202 203 204 205 206 207 208
r214 141 142 0.62445
r215 141 208 0.62445
r216 140 208 0.624484
r217 139 140 0.62445
r218 136 142 0.624484
r219 135 139 0.62445
r220 133 134 0.62445
r221 133 207 0.62445
r222 132 207 0.624484
r223 131 132 0.62445
r224 128 136 0.8856
r225 128 134 0.624484
r226 127 135 0.8856
r227 127 131 0.62445
r228 125 126 0.62445
r229 125 206 0.62445
r230 124 206 0.624484
r231 123 124 0.62445
r232 120 128 0.8856
r233 120 126 0.624484
r234 119 127 0.8856
r235 119 123 0.62445
r236 117 118 0.62445
r237 117 205 0.62445
r238 116 205 0.624484
r239 115 116 0.62445
r240 112 120 0.8856
r241 112 118 0.624484
r242 111 119 0.8856
r243 111 115 0.62445
r244 109 110 0.62445
r245 109 204 0.62445
r246 108 204 0.624484
r247 107 108 0.62445
r248 104 112 0.8856
r249 104 110 0.624484
r250 103 111 0.8856
r251 103 107 0.62445
r252 101 102 0.62445
r253 101 203 0.62445
r254 100 203 0.624484
r255 99 100 0.62445
r256 96 104 0.8856
r257 96 102 0.624484
r258 95 103 0.8856
r259 95 99 0.62445
r260 93 94 0.62445
r261 93 202 0.62445
r262 92 202 0.624484
r263 91 92 0.62445
r264 88 96 0.8856
r265 88 94 0.624484
r266 87 95 0.8856
r267 87 91 0.62445
r268 85 86 0.62445
r269 85 201 0.62445
r270 84 201 0.624484
r271 83 84 0.62445
r272 80 88 0.8856
r273 80 86 0.624484
r274 79 87 0.8856
r275 79 83 0.62445
r276 77 80 0.28782
r277 77 78 1.85976
r278 75 79 0.28782
r279 75 76 1.85976
r280 73 74 0.62445
r281 73 200 0.62445
r282 72 200 0.624484
r283 71 72 0.62445
r284 68 78 0.28782
r285 68 74 0.624484
r286 67 76 0.28782
r287 67 71 0.62445
r288 65 66 0.62445
r289 65 199 0.62445
r290 64 199 0.624484
r291 63 64 0.62445
r292 60 68 0.8856
r293 60 66 0.624484
r294 59 67 0.8856
r295 59 63 0.62445
r296 57 58 0.62445
r297 57 198 0.62445
r298 56 198 0.624484
r299 55 56 0.62445
r300 52 60 0.8856
r301 52 58 0.624484
r302 51 59 0.8856
r303 51 55 0.62445
r304 49 50 0.62445
r305 49 197 0.62445
r306 48 197 0.624484
r307 47 48 0.62445
r308 44 52 0.8856
r309 44 50 0.624484
r310 43 51 0.8856
r311 43 47 0.62445
r312 41 42 0.62445
r313 41 196 0.62445
r314 40 196 0.624484
r315 39 40 0.62445
r316 36 44 0.8856
r317 36 42 0.624484
r318 35 43 0.8856
r319 35 39 0.62445
r320 33 34 0.62445
r321 33 195 0.62445
r322 32 195 0.624484
r323 31 32 0.62445
r324 28 36 0.8856
r325 28 34 0.624484
r326 27 35 0.8856
r327 27 31 0.62445
r328 25 26 0.62445
r329 25 194 0.62445
r330 24 194 0.624484
r331 23 24 0.62445
r332 20 28 0.8856
r333 20 26 0.624484
r334 19 27 0.8856
r335 19 23 0.62445
r336 17 18 0.62445
r337 17 193 0.62445
r338 16 193 0.624484
r339 15 16 0.62445
r340 12 20 0.8856
r341 12 18 0.624484
r342 11 19 0.8856
r343 11 15 0.62445
r344 8 12 0.28782
r345 6 11 0.28782
r346 6 7 0.92988
r347 4 5 1.62359
r348 3 9 0.247405
r349 3 5 1.62361
r350 2 7 0.247405
r351 2 4 1.62359
r352 1 8 0.50922
r353 1 9 0.42066
.ends

